US04762830
(a) Preparation of the starting material 1-methyl-3-trifluoromethyl-5-(4-aminophenoxy)-1H-1,2,4-triazole
8 g of pulverised KOH are added to 10.9 g of p-aminophenol in 120 ml of dimethyl sulfoxide, and the mixture is stirred for 1/2 hour. Then 22.9 g of 1-methyl-3-trifluoromethyl-5-methylsulfonyl-1H-1,2,4-triazole are added, the reaction mixture is stirred for a further 2 hours and subsequently poured into 1 liter of ice water. The precipitated product is isolated by filtration, washed with water and dried. Yield: 19.6 g (76% of theory). Melting point: 111°14 112° C.

reactant | KOH | 8 g | [OH-].[K+]
reactant | p-aminophenol | 10.9 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | 1-methyl-3-trifluoromethyl-5-methylsulfonyl-1H-1,2,4-triazole | 22.9 g | CN1N=C(N=C1S(=O)(=O)C)C(F)(F)F | C5H6F3N3O2S
solvent | dimethyl sulfoxide | 120 ml | CS(=O)C | C2H6OS
product | 1-methyl-3-trifluoromethyl-5-(4-aminophenoxy)-1H-1,2,4-triazole | CN1N=C(N=C1OC1=CC=C(C=C1)N)C(F)(F)F | C10H9F3N4O
